Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain->choledocholithiasis and cholangitis
 
Major Surgical or Invasive Procedure:
ERCP ___ at the lower third of the common bile duct 
(sphincterotomy, stone extraction)
Otherwise normal ercp to third part of the duodenum
 
History of Present Illness:
___ male with chronic systolic congestive heart failure with EF 
10% was admitted from the ED with 1 day of abdominal pain and 
found to have common bile duct obstruction.
.
He initially presented to an OSH with abdominal pain. Around 5pm 
on ___, he developed ___ abdominal pain, worse in the RUQ. 
He describes his abdominal pain as the following: dull and achy 
in character, constant but with waves of more intense pain.  
Labs at OSH were notable for leukocytosis, transaminitis, and 
mild direct hyperbilirubinemia (bili 2.8). CT scan at the OSH 
demonstrated common bile duct obstruction with stone versus 
mass. He received flagyl, ceftriaxone, morphine, zofran, 
phenergan, and 400cc NS. He was then transferred to ___ for 
further evaluation with ERCP versus surgery. Additional review 
of systems is notable for an episode of marked fatigue while 
walking one day prior to admission. 
.
Upon arrival in the ED, temp 98.4, HR 89, BP 134/66, RR 18, and 
pulse ox 100% on room air. Exam was notable for abdominal 
tenderness. Labs were notable for transaminitis with ALT 530, 
AST 716, and Tbili 4. Patient had leukocytosis to 14 with 5% 
bands. Review of OSH CT scan demonstrated distal common bile 
duct dilatation thought likely secondary to stone although mass 
could not be excluded. 
.
Review of systems:  
(+) Per HPI. abdominal pain, decreased appetite x ___ months, 
can usually walk at least 30 minutes until he feels short of 
breath
(-) Denies fever, chills, night sweats, weight loss, headache, 
sinus tenderness, rhinorrhea, congestion, cough, shortness of 
breath, chest pain or tightness, palpitations, nausea, vomiting, 
constipation, change in bladder habits, dysuria, arthralgias, or 
myalgias.  
 
Past Medical History:
1. Chronic Systolic Congestive Heart Failure
- reported EF 10%
- only takes lasix prn if weight goes up
2. Type 2 Diabetes Mellitus, controlled and without 
complications
3. h/o Gastric Lymphoma and MALT s/p chemotherapy
4. Coronary Artery Disease s/p CABG in ___
5. s/p Laparoscopic cholecystectomy in ___ 
 
Social History:
___
Family History:
Father - died of ___ Disease at age ___
Mother - Heart Disease
Daughter - 2 episodes of breast cancer
Has 8 children total
 
Physical Exam:
T 97.4 / BP 128/80 / HR 76 / RR 18 / Pulse ox 93-96% on room air
on discharge: vitals Tm 99.4, rest of VSS
Gen: very pleasant, appears younger than stated age, no acute 
distress, resting easily, speaking clearly
HEENT: Clear OP, MMM
NECK: Supple, No LAD, No JVD
CV: RR, NL rate. NL S1, S2. ___ systolic murmur heard best at 
LUSB; well-healed midline CABG scar
LUNGS: bibasilar crackles improved with coughing
ABD: + BS, soft, initially tender to palpation RUQ, nontender at 
time of dsicharge
EXT: No edema.  
SKIN: No rash
NEURO: A&Ox3. Appropriate. CN ___ intact. ___ strength 
throughout. Normal coordination. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
___: 
Na 136 / K 3.7 / Cl 100 / CO2 25 / BUN 16 / Cr .9 / BG 160 
Ca 9.3 / mg 1.5 / Phos 3.5
ALT 530 / AST 716 / Alk Phos 118 / TB 4
Lipase 26
WBC 14 / hct 38 / Plt 200
N 89 / Bands 5 / L 2 / M 3 / E 0 / B 0
.
.
discharge labs: 
wbc 14-->9.9
hgb 11.2
BUN/creat ___
INR 1.3
.
AST 716->88
ALT 530->205
Tbili 4.0->1.4
.
Trop 0.04->0.02 CKMBs both wnl
.
.
Blood CX ___ and ___ NTD at time of discharge
 
.
.

STUDIES: 
___ ECG - NSR at ~75 bpm, left axis deviation, occasional 
PACs, nothing acute
.
___ Review of OSH CT Abd/Pelvis -IMPRESSION: 
1. Intra- and extra-hepatic ductal dilation. Round filling 
defect in the 
distal common duct is most likely a stone, although mass cannot 
be excluded. 
2. Coronary artery and aortic calcifications. 
3. Small bilateral fat-containing inguinal hernias. 
 
.
___ RUQ US - intrahepatic ductal dilation 
CBD incompletely visualized due to bowel gas. findings are 
better depicted on CT 
.
ERCP ___: Stone at the lower third of the common bile duct 
(sphincterotomy, stone extraction)Otherwise normal ercp to third 
part of the duodenum
.....................
OSH LABS: 
___ 
WBC 14.9 / Hct 42 / Plt 214
N 90 / L 6 / M 3 / E 0 / B 0
INR 1 / PTT 26
Na 135 / K 4.5 / Cl 97 / CO2 24 / BUN 23 / Cr 1/ BG 178
Lipase 32 / Ca 9.8
TP 7.4 / Alb 4.9 / TB 2.8 / DB 2.1
AST 612 / ALT 339 / Alk Phos 116
UA - yellow, clear, negative for gluc / prot / nit / blood / 
leuk esterase / epis, 50 ketones, 4 urobili
.
OSH MICROBIOLOGY: 
None sent
.
___ CXR - shallow inspiration, suspected bibasilar 
atelectasis though mild infiltrates cannot be excluded 
.
see above for interpretation OSH CT

 
Brief Hospital Course:
___ male with chronic systolic congestive heart failure EF 10%, 
s/p CCY ___ admitted from OSH with acute onset RUQ pain. 
Imaging with CT at OSh showed intra/extra biliary ductal 
dilation concerning or stone or mass. Also labs showed 
leukocytosis and cholestatic elevation of LFTs and given low 
grade fever, there was concern for cholangitis. He was started 
on CTx and flagyl and to ___ for ERCP. Seen by GI and 
underwent ERCP with sphincterotomy and stone removal on ___ w/o 
complications. By next am, his AST/ALT/Tbili had improved 
considerably, he no longer had any abdominal pain, and was 
tolerating clears. For his presumed cholangitis, he was 
transitioned to unasyn on admission and eventually cipro/flagyl 
to cover for cholangitis with plan to complete 7day course. He 
was afebrile with decreasing wbc by time of discharge. 
As for his chronic sCHF, he is normally compensated and only 
takes lasix prn weight gain. He was kept off lasix and given 
gental IVFs given his NPO status. remained euvolemic. kept on 
rest of his cardiac meds including ___. For his h/o 
CAD, he had c/o extreme fatigue day PTA so he was ruled out with 
EKG and trops. he was kept on his statin/gemfib (LFTs better) 
and ___. On ASA 81 at ___, but this should not be started 
for another 36hours after discharge. 
For his DM, he had recieved contrast at OSH and was NPO, so kept 
on humalog SSI instead of his oral regimen of 
metformin/glyburide. These were resumed on d/c. 
Overall he did very well. He will f/u with Dr. ___. 
CODE: full code
Daughter ___ - ___, Work 
___

.

 
Medications on Admission:
1. Irebesartan 37.5 mg daily
2. Gemfibrozil 400mg PO daily
3. Omeprazole 20mg PO daily
4. Spironolactone 25mg PO daily
5. Furosemide 40mg PO daily prn
6. Carvedilol 6.25mg PO bid
7. Fluvastatin 40mg PO daily
8. Metformin 500mg PO daily
9. Glyburide 2.5mg PO daily
 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day: start 
on ___.  
5. Irbesartan 75 mg Tablet Sig: ___ Tablet PO once a day.  
6. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO once a day: 
resume your previous dose (?400mg).  
7. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for weight gain: resume your previous as needed dose 
(?50mg).  
8. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
9. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Fluvastatin 40 mg Capsule Sig: One (1) Capsule PO once a 
day.  
11. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 5 
days.
Disp:*10 Tablet(s)* Refills:*0*
12. Flagyl 500 mg Tablet Sig: One (1) Tablet PO three times a 
day for 5 days.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
___
 
Discharge Diagnosis:
Choledocholithiasis
cholangitis
 
Discharge Condition:
GOOD
 
Discharge Instructions:
You were admitted and were found to have a stone in your biliary 
duct, and possibly an infection in your biliary system.  You 
were treated with ERCP on ___  which is the procedure that 
removed your stone, and with antibiotics. you will complete 
total of 7days of antibiotics (5more days after discharge). 
Please advance your diet slowly over next ___. 
You may resume all your previous diabetes and heart medications. 
however, please do not start your aspirin until ___. 
 Please seek medical attention if you develop fevers, chills, 
nausea, abdominal pain, fevers, chills, blood in your stools, 
black tarry stools, or any other concerns.
 
Followup Instructions:
___